US04863942
1.0 g of Raney nickel is added to a solution of 9.1 g (23.5 mmol) of 3-[3-(4-acetyl-3-hydroxy-2-n-propylphenoxy)-propoxy]-6-methylnitrobenzene in 90 ml of tetrahydrofuran and the whole is hydrogenated at room temperature. The catalyst is filtered off and washed with tetrahydrofuran. The filtrate is concentrated to dryness by evaporation under reduced pressure. 3-[3-(4-acetyl-3-hydroxy-2-n-propylphenoxy)-propoxy]-6-methylaniline is obtained having an Rf value=0.12 (silica gel/methylene chloride).

reactant | 3-[3-(4-acetyl-3-hydroxy-2-n-propylphenoxy)-propoxy]-6-methylnitrobenzene | 23.5 mmol, 9.1 g | C(C)(=O)C1=C(C(=C(OCCCOC=2C=C(C(=CC2)C)[N+](=O)[O-])C=C1)CCC)O | C21H25NO6
catalyst | Raney nickel | 1.0 g | [Ni] | Ni
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
product | 3-[3-(4-acetyl-3-hydroxy-2-n-propylphenoxy)-propoxy]-6-methylaniline | C(C)(=O)C1=C(C(=C(OCCCOC=2C=C(N)C(=CC2)C)C=C1)CCC)O | C21H27NO4
